US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N-(3-hydroxyphenyl)-4-pyrimidineamine and 4-(2,3-dihydroxypropoxy)aniline were reacted to produce N2-[4-(2,3-dihydroxypropoxy)phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.38 (s, 1H), 9.18 (s, 1H), 8.98 (s, 1H), 8.12 (d, 1H, J=3.5 Hz), 7.58 (d, 2H, J=8.8 Hz), 7.22 (d, 1H, J=2.3 Hz), 7.12 (dd, 2H, J=2.3 and 8.8 Hz), 6.79 (d, 2H, J=8.8 Hz), 6.45 (d, 1H, J=8.8 Hz), 4.91 (d, 1H, J=5.3 Hz), 4.65 (t, 1H, J=5.8 Hz), 3.92–3.89 (m, 1H), 3.79–3.74 (m, 2H), 3.44 (t, 2H, J=5.3 Hz); LCMS: ret. time: 12.79 min.; purity: 89%; MS (m/e): 387 (MH+).

reactant | 2-chloro-5-fluoro-N-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 4-(2,3-dihydroxypropoxy)aniline | OC(COC1=CC=C(N)C=C1)CO | C9H13NO3
product | N2-[4-(2,3-dihydroxypropoxy)phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | OC(COC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F)CO | C19H19FN4O4
